US05260314
A. 8-Ethoxycarbonyl-3-chloro-2-formyl-8-azabicyclo[3.2.1]oct-2-ene
To a solution of dry DMF (45 g, 0.6 mol) in dry CH2Cl2 (150 ml) was added POCl3 (75 g, 0.5 mol) at 0°-10° C. 8-Ethoxycarbonyl-8-azabicyclo[3.2.1]octane-3-one (57 g, 0.29 mol) dissolved in dry CH2Cl2 (60 mol) was added. The reaction mixture was stirred over night at room temperature, then added to ice water (1.000 ml). The phases were separated and the water phase extracted with CH (2×200 ml). The combined CH2Cl2 extracts were washed with a saturated NaHCO3 solution and water, dried and evaporated to give 70 g of the title compound, which was used in the next step without further purification.

reactant | DMF | 0.6 mol, 45 g | CN(C)C=O | C3H7NO
reactant | POCl3 | 0.5 mol, 75 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 8-Ethoxycarbonyl-8-azabicyclo[3.2.1]octane-3-one | 0.29 mol, 57 g | C(C)OC(=O)N1C2CC(CC1CC2)=O | C10H15NO3
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 mol | C(Cl)Cl | CH2Cl2
product | 8-Ethoxycarbonyl-3-chloro-2-formyl-8-azabicyclo[3.2.1]oct-2-ene | 70 g | C(C)OC(=O)N1C2C(=C(CC1CC2)Cl)C=O | C11H14ClNO3
